US05489593
1-[1,1-Dimethylethoxycarbonyl]-4-[5-amino-6-pyrimidinyl]piperazine
A mixture of 1-[1,1-dimethylethoxycarbonyl]-4-[4-chloro-5-nitro-6-pyrimidyl]piperazine (PREPARATION 23, 0.56 g) and triethylamine (0.3 ml) and palladium on carbon (5%, 0.13 g) in ethanol (100 ml) is charged with hydrogen gas (30 psi). After the theoretical amount of hydrogen gas is consumed, the catalyst is removed under reduced pressure. The filtrate is concentrated under reduced pressure to a foam which is diluted with an aqueous saturated solution of potassium carbonate and dichloromethane. The phases are separated and the organic phase is dried over sodium sulfate and concentrated to give to give the title compound, NMR (CDCl3) 1.49, 3.49, 3.29, 3.56, 7.98, and 8.39 δ.

reactant | 1-[1,1-dimethylethoxycarbonyl]-4-[4-chloro-5-nitro-6-pyrimidyl]piperazine | 0.56 g | CC(C)(OC(=O)N1CCN(CC1)C1=C(C(=NC=N1)Cl)[N+](=O)[O-])C | C13H18ClN5O4
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.13 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[1,1-Dimethylethoxycarbonyl]-4-[5-amino-6-pyrimidinyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1=C(C=NC=N1)N)C | C13H21N5O2
